US07585886B2
A mixture of 223 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate, 78.6 mg of triethylamine and 4.5 ml of MeCN was mixed, under ice-cooling, with 215 mg of methyl 2-{[(4-nitrophenoxy)carbonyl]oxy}benzoate and stirred at room temperature for 4Hours. The reaction solution was mixed with ethyl acetate, washed with saturated sodium bicarbonate aqueous solution and saturated brine in that order and dried with anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (hexane-ethyl acetate) to obtain 189 mg of 2-(methoxycarbonyl)phenyl (3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carbamate as a white amorphous substance.

reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | 223 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
reactant | triethylamine | 78.6 mg | C(C)N(CC)CC | C6H15N
reactant | MeCN | 4.5 ml | CC#N | C2H3N
reactant | methyl 2-{[(4-nitrophenoxy)carbonyl]oxy}benzoate | 215 mg | [N+](=O)([O-])C1=CC=C(OC(=O)OC2=C(C(=O)OC)C=CC=C2)C=C1 | C15H11NO7
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(methoxycarbonyl)phenyl (3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidine-1-carbamate | 189 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@@H]1CN(C[C@@H]1C1=CC=CC=C1)NC(=O)OC1=C(C=CC=C1)C(=O)OC | C37H41N3O6
